US03966966
Potassium tert-butoxide (8.42 g., 0.075 mole) dissolved in tert-butanol (300 ml.) is added to a refluxing solution of 2-methyl-6-methoxy-4,5-dichloroindan-1,3-dione (12.95 g., 0.05 mole), refluxing is continued for 2 hrs., then a suspension of diphenyliodonium chloride (19.0 g., 0.06 mole) in tert-butanol (1 l.) is added and refluxing is continued for 2 hrs. The reaction mixture is cooled to 25°C., 300 ml. water added, and the mixture concentrated to dryness in vacuo to give 2-methyl-2-phenyl-4,5-dichloro-6-methoxyindan-1,3-dione.

reactant | Potassium tert-butoxide | 0.075 mole, 8.42 g | CC(C)([O-])C.[K+]
reactant | 2-methyl-6-methoxy-4,5-dichloroindan-1,3-dione | 0.05 mole, 12.95 g | CC1C(C2=CC(=C(C(=C2C1=O)Cl)Cl)OC)=O | C11H8Cl2O3
reactant | diphenyliodonium chloride | 0.06 mole, 19.0 g | [Cl-].C1(=CC=CC=C1)[I+]C1=CC=CC=C1
reactant | water | O | H2O
solvent | tert-butanol | 300 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 1 l | C(C)(C)(C)O | C4H10O
product | 2-methyl-2-phenyl-4,5-dichloro-6-methoxyindan-1,3-dione | CC1(C(C2=CC(=C(C(=C2C1=O)Cl)Cl)OC)=O)C1=CC=CC=C1 | C17H12Cl2O3
